US06350749B1
A mixture of 5-phenylcyclohexane-1,3-dione (1.0 g) and ammonium acetate (0.45 g) in ethanol (30 ml) was stirred at room temperature for 1 hour, refluxed for 6 hours and cooled. To the reaction solution was added ethyl propiolate (0.55 g), and the mixture was stirred at room temperature for 1 hour and refluxed 14.5 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was recrystallized from ethanol to give colorless crystals of 7-phenyl-1,2,5,6,7,8-hexahydroquinoline-2,5-dione (0.19 g).

reactant | 5-phenylcyclohexane-1,3-dione | 1.0 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | ammonium acetate | 0.45 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl propiolate | 0.55 g | C(C#C)(=O)OCC | C5H6O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7-phenyl-1,2,5,6,7,8-hexahydroquinoline-2,5-dione | 0.19 g | C1(=CC=CC=C1)C1CC(C=2C=CC(NC2C1)=O)=O | C15H13NO2
